Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Levaquin / Effexor
 
Attending: ___.
 
Chief Complaint:
painful rash
 
Major Surgical or Invasive Procedure:
Lesion scrapings taken for DFA (___)

 
History of Present Illness:
 ___ with PMHx significant for asthma, Addison's disease, prior 
lung cancer status post lobectomy (___) with concern for 
recurrence that is being monitored, breast cancer status post 
lumpectomy, nasal allergies, arthritis, and longstanding 
multifactorial severe insomnia with excessive daytime 
sleepiness, who is presenting with ___ onset rash.  
 Patient describes rash that started 1 week ago. She first noted 
rash on her leg. Describes as red, not itchy and very painful. 
Over the week has had ___ lesions occur daily in areas including 
both legs, groin, back, axilla and beneath breasts. Describes 
pain as excruciating. She denies recent travel. Not exposure to 
wooded areas. Lives alone without pets in the house and no 
concern for bed bugs. Had chicken pox and child and did receive 
the Zoster vaccine but was told in the setting of her addisons 
that she could still be susceptible to varicella.  
 She went to ___ dermatology today (her ___ PCP ___ be at ___) 
and had a biopsy taken from a lesion on her right upper thigh. 
She was given a prescription for Valtrex which she hasn't 
filled. She is concerned about taking this medication. She was 
then having continued pain so went to her PCP at ___ 
___, where she was given oxycodone. She took one pill 
and had nausea/headache and "I was an inch away from an 
Addisonian crisis." She called her PCP who recommended 
observation at ___ but no beds were available so she came here 
to the ED. ROS notable for no fevers, chills, abdominal pain, 
dysuria, diarrhea. No current headache. No chest pain, SOB.
 
Past Medical History:
 Asthma  
 Addison's disease  
 Prior lung cancer status post lobectomy (___) with concern for 
recurrence that is being monitored  
 Breast cancer status post lumpectomy,  
 Nasal allergies  
 Arthritis  
 Longstanding multifactorial severe insomnia with excessive 
daytime sleepiness  
 Thoracic outlet syndrome  
 Bilateral carpal tunnel syndrome  
 Right ulnar neural palsy  
 GI bleed in ___  
 Monoclonal protein disorder (diagnosed in ___, followed by 
hematologist at ___.  
 
Social History:
___
Family History:
Non contributory  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
 97.9, 175 / 78 70 20 96 RA  
 General: Alert, oriented, appears distressed, very thin 
appearing  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 Ext: scattered erythematous papules on lower extremities, 
beneath breasts, in axilla and in groin region. Largest area on 
right inner thigh with raised erythematous papule and circular 
erythematous surrounding skin 1-2cm in diameter. tender to 
palpation.  
 Neuro: CNII-XII intact, grossly non focal.  

DISCHARGE PHYSICAL EXAM:
========================
Vital Signs:  T 97.8, BP 140/62, HR 67, RR 18, SpO2 99/RA
General: Alert, oriented, no acute distress. Frail appearing.  
HEENT: Sclera anicteric, MMM.
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding
Ext: Warm, well perfused, 2+ pulses, no edema  
Skin: Diffuse erythematous papules, down to 1-22mm in diameter. 
Mostly over legs, inguinal folds, genitalia, inframammary folds, 
and axilla. Lesions are less painful to touch. No crusting or 
discharge from lesions. Face, palms, feet spared.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:00PM   PLT COUNT-201
___ 04:00PM   NEUTS-66.2 ___ MONOS-7.8 EOS-0.9* 
BASOS-0.5 IM ___ AbsNeut-3.72 AbsLymp-1.37 AbsMono-0.44 
AbsEos-0.05 AbsBaso-0.03
___ 04:00PM   WBC-5.6 RBC-4.53 HGB-13.1 HCT-41.9 MCV-93 
MCH-28.9 MCHC-31.3* RDW-14.0 RDWSD-47.3*
___ 04:00PM   CRP-0.9
___ 04:00PM   ALBUMIN-4.6
___ 04:00PM   ALT(SGPT)-17 AST(SGOT)-25 ALK PHOS-53 TOT 
BILI-0.4
___ 04:00PM   GLUCOSE-100 UREA N-26* CREAT-0.7 SODIUM-137 
POTASSIUM-4.7 CHLORIDE-100 TOTAL CO2-27 ANION GAP-15
___ 04:10PM   LACTATE-0.9
___ 04:50PM URINE  MUCOUS-RARE
___ 04:50PM URINE  AMORPH-FEW
___ 04:50PM URINE  RBC-2 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 04:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
___ 04:50PM URINE  COLOR-Straw APPEAR-Hazy SP ___

DISCHARGE LABS:
===============
**Labs not drawn on day of discharge as they were not necessary 
for management**

IMAGING:
========
NONE
 
Brief Hospital Course:
___ with PMHx significant for asthma, Addison's disease, prior 
lung cancer status post lobectomy (___) with concern for 
recurrence that is being monitored, breast cancer status post 
lumpectomy, nasal allergies, arthritis, and longstanding 
multifactorial severe insomnia with excessive daytime 
sleepiness, who is presenting with ___ onset rash. 

ACUTE ISSUES THIS HOSPITALIZATION:
==================================
 # RASH: Rash is papular in appearance, exquisitely painful, non 
puritic, located on legs, groin and abdomen. No clear vesicular 
lesions. Evaluated by ___ dermatology on ___ with biopsy taken 
and Valtrex prescription provided, however pt could not tolerate 
pain so came to ED here. DDx includes disseminated VZV v. bite. 
Other etiologies likely on the differential as well. Improvement 
in pain with gabapentin. Started on Valtrex ___ BID on 
___. Pt seen by dermatology here, who took sample for DFA and 
recommended Valtrex with clobetasol cream and outpatient 
follow-up. Preliminary results on the biopsy taken as outpatient 
show that the lesions are mostly likely bug bites, and that 
there is no evidence of viral cytology. Valtrex was stopped at 
discharge. Gabapentin 300mg TID was initiated for pain control 
with decent success.

 # ADDISONS DISEASE: Chronic. On cortisone acetate 12.5mg qAM 
and 6.25mg qPM at home, which was continued in house. No lab 
abnormalities or clinical findings concerning for Addisonian 
crisis.

 # ELEVATED BP: BPs elevated to 160s during admission. Likely in 
setting of acute pain. No headache or vision changes currently. 
___ have a component of white coat hypertension.

CHRONIC MEDICAL ISSUES: 
======================= 
 # H/o lung cancer status post lobectomy (___) with concern for 
recurrence that is being monitored. Due for chest CT in ___ for monitoring. 

 # H/o breast cancer status post lumpectomy 

 # Nasal allergies 

 # Asthma: Continued home Advair and albuterol 

 # Multifactorial severe insomnia with excessive daytime 
sleepiness: Continued home CPAP 8-10 cm 

TRANSITIONAL ISSUES:
# VALTREX: stopped at discharge.
# BIOPSY AND DFA: biopsy done at ___ and DFA done in-house at 
___. Preliminary results show the lesions are likely bug bites 
and not any herpes virus. These results will need to be followed 
up.
# ELEVATED BP: follow-up blood pressures as outpatient and once 
current painful episode is resolved.
# DERMATOLOGY FOLLOW-UP: Should be with Dr ___ at ___ 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. cortisone 12.5 mg oral QAM 
2. cortisone 6.25 mg oral QPM 
3. Multivitamins 1 TAB PO DAILY 
4. Calcium Carbonate 500 mg PO DAILY 
5. Vitamin D 400 UNIT PO DAILY 
6. Magnesium Oxide 250 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. permethrin 5 % topical 3X/WEEK 
9. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
10. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Clobetasol Propionate 0.05% Ointment 1 Appl TP BID:PRN 
pain/relief  
3.  Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg One capsule(s) by mouth Three times a day 
Disp #*22 Capsule Refills:*0 
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
5.  Aspirin 81 mg PO DAILY  
6.  Calcium Carbonate 500 mg PO DAILY  
7.  cortisone 12.5 mg oral QAM  
8.  cortisone 6.25 mg oral QPM  
9.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
10.  Magnesium Oxide 250 mg PO DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  permethrin 5 % topical 3X/WEEK  
13.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES: 
 - Painful popular rash, possibly due to arthropod bites. 
Unlikely disseminated zoster. 
 - Addison's disease 
 
SECONDARY DIAGNOSES: 
 - Asthma  
 - multifactorial severe insomnia with excessive daytime 
sleepiness on CPAP at night  
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to ___ from 
___ to ___ for a painful rash.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
=============================================
 - You were seen by dermatology, who took samples from a few of 
you painful spots to test for any herpes virus, which could 
include chickenpox or shingles. They do not believe that you 
have either of these things, but took the samples to be sure.
 - You were started on Valtrex to cover any potential infection 
caused by herpes viruses.
 - You were started on gabapentin to help control your pain.
 - You used lidocaine cream to help control the pain.
 - You had blood work done to assess your Addison's Disease, 
which showed no signs of Addisonian crisis.
 - The exact cause of your rash could not be determined. It 
mostly likely was caused by bug bites.

WHAT WILL HAPPEN WHEN YOU LEAVE THE HOSPITAL?
=============================================
 - You may stop taking Valtrex. The dermatologists here feel 
confident that your rash is not caused by a herpes virus, and is 
most likely bug bites, and so you no longer to be treated with 
Valtrex.
 - You will continue to take gabapentin to control your pain.
 - You should call your dermatologist, Dr ___ at ___ 
___, to make a follow-up appointment.
 - You should see your primary care doctor, ___, to 
follow-up and to determine if you can stop taking gabapentin.

If you have any further questions regarding your care here, 
please do not hesitate to contact us. We wish you the best with 
your health going forward.

Your ___ Care Team
 
Followup Instructions:
___